US08664213B2
Et3N (0.5 mL) was added into a solution of tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (0.2 g) and benzoyl chloride (0.1 mL) in THF (10 mL). The mixture was heated to 115° C. for 24 hours. The reaction was quenched with water (10 mL). The aqueous layer was extracted with EtOAc (3×10 mL). The combined organic phase was dried over MgSO4 and concentrated to give a residue which was purified by silica gel chromatography to give tert-butyl 7-benzoyl-2,7-diazaspiro[4.4]nonane-2-carboxylate.

reactant | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
reactant | tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 0.2 g | C1N(CC2C1CNC2)C(=O)OC(C)(C)C | C11H20N2O2
reactant | benzoyl chloride | 0.1 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 7-benzoyl-2,7-diazaspiro[4.4]nonane-2-carboxylate | C(C1=CC=CC=C1)(=O)N1CC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C19H26N2O3
